US07230011B2
3-(1-Methylpiperidin-4-yl)-5-hydroxy-1H-indole
A mixture of 5-benzyloxy-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole (16.4 g, 51.5 mmol) and 5% palladium on carbon (4.0 g) in ethanol (125 mL) and tetrahydrofuran (125 mL) was hydrogenated with an initial hydrogen pressure of 60 psi (413 kPa) at ambient temperature for 16 h. The reaction mixture was filtered and concentrated under reduced pressure. The residue was crystallized from methanol and THF to give 6.06 g (51%) of the title compound as white crystals: mp=234-237° C.; MS(m/e): 230 (M+); Calculated for C14H18N2O: Calcd: C, 73.01; H, 7.88; N, 12.16. Found: C, 72.79; H, 8.17; N, 12.33.

reactant | 5-benzyloxy-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 51.5 mmol, 16.4 g | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C | C21H22N2O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 4.0 g | [Pd] | Pd
solvent | ethanol | 125 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
product | 3-(1-Methylpiperidin-4-yl)-5-hydroxy-1H-indole | 6.06 g, 51% | CN1CCC(CC1)C1=CNC2=CC=C(C=C12)O | C14H18N2O
